US06048872
(2,3-Dihydro-1H-indol-5-yl)-acetic acid methyl ester
A suspension of (1-acetyl-2,3-dihydro-1H-indol-5-yl)-acetic acid methyl ester (0.60 g) in 2M hydrochloric acid (15 ml) was heated under reflux for 5 h. The mixture was evaporated to dryness. The residue was dissolved in methanol (20 ml) and treated with concentrated sulphuric acid (5 drops). The solution was stirred at room temperature for one hour, then concentrated. The residue was partitioned between ethyl acetate and sodium carbonate solution. The organic phase was dried and evaporated and the residue purified by chromatography eluting with cyclohexane:ethyl acetate (2:1) to give the title compound as a brown oil (0.40 g).

reactant | (1-acetyl-2,3-dihydro-1H-indol-5-yl)-acetic acid methyl ester | 0.60 g | COC(CC=1C=C2CCN(C2=CC1)C(C)=O)=O | C13H15NO3
solvent | hydrochloric acid | 2M, 15 ml | Cl | ClH
product | (2,3-Dihydro-1H-indol-5-yl)-acetic acid methyl ester | 0.40 g | COC(CC=1C=C2CCNC2=CC1)=O | C11H13NO2
